US05385922
2-(3-Hydroxypropoxy)benzaldehyde
Synthesized from salicylaldehyde and 3-chloropropanol as described in Example XXIXb.

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 3-chloropropanol | ClCCCO | C3H7ClO
product | 2-(3-Hydroxypropoxy)benzaldehyde | OCCCOC1=C(C=O)C=CC=C1 | C10H12O3
